Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"it feels like almost everbody has been giving
me a hard time about everything"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ man with h/o bipolar disorder and non-verbal learning
disability, currently self-presenting to  ___ ED with thoughts
of suicide or Arson. The patient say that for the past months he
has had worsening anxiety and SI with a plan to throw himself in
front of a train as well as plan of arson either by setting
himself on fire in his apartment or setting his apartment on 
fire
as revenge on his landlord. 

The patient reports that he has been in a struggle with his
landlord about his housing for the past few years. He reports
going to court with the ___ association when the landlord
failed to pay the ___ fees then threatened to evict him. He is
now facing eviction as the Landlord plans to sell the building.
He also has conflict with his SSDI as he works four jobs and
apparently does not meet the income requirements. He also 
reports
stressful interaction with his mother and a feeling that she
wants to control his decisions. Furthermore he is angry with two
of his social workers as he feels they have misadvised him.    

With regards to neurovegetative symptoms the patient denies poor
sleep, poor appetite, excessive guilt or difficulty with his
daily activites or interests. He does express increasing anxiety
and more frequent thoughts of suicide. He also reports hat he
feels that people do not allow him to get angry or raise his
voice which he has done more frequently in the recent past. He 
is
very future oriented and expressed great concern that he needs 
to
continue with his jobs and stay in contact with his employers 
and
that a hospital stay would severly inconvenience him in this
regard. He reports that despite his current thoughts and plans 
of
suicide he has no intent to commit suicide nor does he intend to
actually commit arson. He feels safe however he is able to
understand the concerns for his safety.

 
Past Medical History:
DX: Bipolar, Non-verbal learning disability
HOSP: multiple, most recent was at ___ ___ for depression.
SA/SIB: no SIB, one past SA in ___, via OD on psych meds, did
not require hospitalization.
PSYCHIATRIST: Dr. ___ MD @ ___, 
THERAPIST: ___ @ ___, 

PAST MED HX: none
PCP: BWH: Dr. ___

 
Social History:
___
Family History:
Father with depression, committed suicide in ___.  Apparently, 
pts father was discharged from ___, went to a hotel, and 
overdosed on pills.  The patient was the one who found his 
father.  

 
Physical Exam:
VS:  BP: 121/88  HR:  64 temp: 98.8 resp:  16 O2 sat:97  
GA: Fairly groomed male, in NAD, sitting in chair
HEENT: NC/AT, PERRL, EOMI, oral mucosa pink and moist, fair
dentition
Neck: no LAD, supple
CV: RRR no m/r/g
Lungs: CTA B
Abd: obese, +BS, NT, ND
Ext: no edema, cyanosis, clubbing.  bilateral hand tremor
  Neurological:
    *station and gait: steady and balanced gait
    *tone and strength: normal tone, ___ strength throughout
    cranial nerves: CN II-XII grossly intact

APPEARANCE & FACIAL EXPRESSION: Dressed in hospital gown,
looks stated age,  fairly well groomed, no detectable malodor,
NAD 
     POSTURE: lying in bed 
     BEHAVIOR: Baseline resting tremor, NO PMR/PMA
     ATTITUDE:Cooperative
     SPEECH: Pressured, difficult to interrupt, fairly rapid 
rate
rate, occassionally loud volume, fluent language, good
vocabulary, normal prosody
     MOOD: "I feel anger"
     AFFECT: heightened irritablity - mood congruent
     THOUGHT FORM: generally linear and goal directed however
there are periods of tangentiallity when describing his 
stressors
and occassional loose associations when asked questions outside
of his housing situation. These associations usually relate
questions to his housing and job concerns. Fo rexample when 
asked
if he had been able to do the things he would normally enjoy
doing the patient began to discuss his ability to call his 
census
bureau supervisor to talk about his training.
     THOUGHT CONTENT: themes of his issues with his housing and
his mother, as well as other current stressors.
     ABNORMAL PERCEPTIONS: Denies
     NEUROVEGETATIVE SYMPTOMS: As outlined in HPI
     SUICIDALITY/HOMICIDALITY: Currently denies
     INSIGHT AND JUDGMENT: poor/Fair
     COGNITIVE ASSESSMENT:
          SENSORIUM: ALert
          ORIENTATION: orientation x3 - person, place, date
          ATTENTION: Intact - ___ backwards
          MEMORY: ___ on repitition and recall with prompts
          CALCULATIONS: intact 9 quarters = $2.25
          FUND OF KNOWLEDGE: good - knows last four presidents,
know house speaker ___
          PROVERB INTERPRETATION: Spilt milk - "don't worry 
about
what's in the past"          
          SIMILARITIES/ANALOGIES:
Child and Dwarf - both small, child is not yet an adult while a
dwarf may be an adult.

 
Pertinent Results:
___ 09:45AM   ALT(SGPT)-29 AST(SGOT)-18 ALK PHOS-92 TOT 
BILI-0.2
___ 09:45AM   TSH-2.6
___ 09:43AM   GLUCOSE-95 UREA N-20 CREAT-0.9 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-29 ANION GAP-12
___ 09:43AM   LITHIUM-1.1
___ 09:43AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:43AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:43AM   WBC-7.7 RBC-5.04 HGB-13.9* HCT-43.1 MCV-85 
MCH-27.6 MCHC-32.3 RDW-13.7
___ 09:43AM   NEUTS-64.2 ___ MONOS-5.0 EOS-5.0* 
BASOS-1.0
___ 09:43AM   PLT COUNT-278
___ 09:43AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:43AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

___ lithium 1.___. Psychiatric: Mr. ___ was admitted to ___ and 
was continued on his home medications; Lithium 900mg po bid, 
Klonopin 0.5mg po bid, and Seroquel 150mg po qhs.  The lithium 
level was 1.1 on admission.  Due to his bilateral hand tremor, 
there was a concern for lithium toxicity.  A subsequent lithium 
level was also 1.1.  We encouraged Mr. ___ to take 
meals and fluids.  His tremor mildly improved.  Another Lithium 
level drawn on ___ showed a level of 1.1.    
Mr. ___ continued to be irritable at times.  The 
Seroquel was increased to 200mg po qhs to help with his sleep 
and mood stability.  This improved his sleep and seemed to 
improve his irritability, though he became somewhat angry 
whenever discussion regarding his landlord or ___ benefits 
arose.  He denied any suicidal ideation or any idea of arson 
upon discharge.  He stated that he "wouldn't actually do that".  
The treatment team wanted to increase his Seroquel to 300mg po 
qhs, however Mr. ___ was resistant to this.  He 
believed his sleep pattern was fine.  After further discussion 
with the team, it was decided that he would try Seroquel 300mg 
po qhs and he would be seeing his psychiatrist, Dr. ___ 
could adjust as necessary.        

2. Dysphagia: Mr. ___ was complaining of difficulty 
swallowing on admission and believed that there was a 
"neurological basis".  A swallowing evaluation was done which 
was normal.  He was encouraged to eat slowly, cut solid foods up 
into manageable pieces, and moisten dry foods as needed for 
easier transit.  He was  continued on a diet of thin liquids and 
regular consistency solids.       

3. Psychosocial: Mr. ___ was very concerned about his 
housing situation during his admission.  During his admission on 
Deac 4, he was able to complete some necessary paperwork and 
talk to his housing advocate.  This was beneficial for him.  In 
addition, there was a meeting between ___, his housing 
advocate, and therapist, ___, on the day of discharge.  
Although he became loud and left the room at one point, he 
returned to the meeting and was able to determine a plan 
regarding his housing and SSI benefits. 

4. Behavioral: As written above, Mr. ___ was irritable 
at times, but improved during his admission.  He did not require 
any seclusion or restraints.  He attended some groups and was 
very active in the milieu.  

5. Dispo: Mr. ___ will be discharged home.  He will be 
following up with his PCP, ___, and therapist.  
 
Medications on Admission:
Lithium SR 900mg po bid
Klonopin 0.5mg po bid
Seroquel 150mg po qhs
Ibuprofen prn
 
Discharge Medications:
1. Quetiapine 200 mg Tablet Sig: 1.5 Tablets PO QHS (once a day 
(at bedtime)): For total of 300mg at bedtime.
Disp:*45 Tablet(s)* Refills:*0*
2. Lithium Carbonate 300 mg Tablet Sustained Release Sig: Three 
(3) Tablet Sustained Release PO BID (2 times a day).
Disp:*180 Tablet Sustained Release(s)* Refills:*0*
3. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: bipolar disorder
Axis II: nonverbal learning disability
Axis III: hypercholesterolemia, cataracts
Axis IV: housing, financial, family stressors
Axis V: 50

 
Discharge Condition:
Mr. ___ was in stable and improved condition on 
discharge.  His anger was better controlled and he was looking 
forward to going home.    
His vital signs were stable and he ambulates independently.  
MSE:
Irritable, Poor to fair grooming, dressed in shirt and kahki
pants.  NAD, sitting in chair mostly calm, except intermittently
loud.  Otherwise normal rate, tone- frustrated at times. 
Mood/Affect- mostly calm ranging to upset 
TP/C: Circumstantial at times, but responds to redirection.  No
noted AH/VH, delusions.  
I/J: Fair. No noted SI/HI.  

 
Discharge Instructions:
1. Please take medication as prescribed and keep all follow-up 
appointments as scheduled.

2. Please call your providers, dial 911, or go to your nearest 
emergency room if the concerns that brought you to the hospital 
return or worsen, if you feel unsafe in any way, if SI/HI 
emerges, or if you have any immediate concerns.

3. Your Seroquel has been increased to 300mg at bedtime.

4. Please see your PCP, ___.

5. Please see your psychiatrist and therapist.  
 
Followup Instructions:
___